US06964965B2
A round bottom flask, fitted with a stir bar and condenser was charged with 5-bromo-6-hydroxy-1-indanone (0.50 g, 2.20 mmol), potassium carbonate (0.456 g, 3.30 mmol), iodomethane (0.341 g, 2.40 mmol), and acetone (10 mL). After heating at reflux for 24 hours the mixture was diluted with ethyl acetate, washed with water (3×10 mL), brine (1×10 mL) and dried with MgSO4. The mixture was filtered and concentrated to give 0.382 g (72%) of 5-bromo-6-methoxyindan-1-one as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.73 (s, 1 H), 7.22 (s, 1 H), 3.95 (s, 3 H), 3.10 (m, 2 H), 2.73 (m, 2 H). MS (ESI+) for C10H9BrO2 m/z 239.9787 (M+H)+. Anal. Calcd. For C10H9BrO2: C, 49.82; H, 3.76. Found: C, 49.69; H, 3.72.

reactant | 5-bromo-6-hydroxy-1-indanone | 2.20 mmol, 0.50 g | BrC=1C=C2CCC(C2=CC1O)=O | C9H7BrO2
reactant | potassium carbonate | 3.30 mmol, 0.456 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 2.40 mmol, 0.341 g | IC | CH3I
reactant | acetone | 10 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-6-methoxyindan-1-one | 0.382 g, 72% | BrC=1C=C2CCC(C2=CC1OC)=O | C10H9BrO2
